US05834494
5-(N,N-Dimethylamino)indoline
1-Acetyl-5-(N,N-dimethylamino)indoline (D12) (0.6 g, 2.94 mmol) in conc. HCl (0.6 ml) was heated over a steam bath for 45 min. The mixture was partitioned between sat aq. K2CO3 (50 ml) and CHCl3 (50 ml) the organic solution dried (Na2SO4), evaporated to dryness under reduced pressure and purified by column chromatography (SiO2, EtOAc/MeOH 5-10%) to afford the title compound (290 mg, 61%) which was used directly in Example 4.

reactant | 1-Acetyl-5-(N,N-dimethylamino)indoline | 2.94 mmol, 0.6 g | C(C)(=O)N1CCC2=CC(=CC=C12)N(C)C | C12H16N2O
solvent | HCl | 0.6 ml | Cl | ClH
product | 5-(N,N-Dimethylamino)indoline | 290 mg, 61% | CN(C)C=1C=C2CCNC2=CC1 | C10H14N2
